US05260480
Preparation Of An Aqueous Solution Containing 80% Of Acryloyloxyethyltrimethylammonium Chloride
78 g of liquid methyl chloride are charged with stirring into a jacketed reactor. The temperature is raised to 47° C. and the pressure of the system equilibrates at 9.6 bars absolute. In the first stage 33 g of dimethylaminoethyl acrylate stabilized with the aid of 700 ppm of hydroquinone methyl ether are injected into the reactor over a period of 20 minutes (that is 16% of the total quantity of acrylate necessary for reaction) In a second stage the complement of the acrylate and the water are injected simultaneously and continuously in a water/acrylate weight ratio of the order of 0.4 over a period of 2 hours. Throughout the reaction the temperature is kept at 47° C. and the pressure in the reactor drops to 3.2 bars absolute at the end of the injection of reactants. 0.5 Nl/h of air is then injected continuously into the reactor and over a period of 1 hour the reactor pressure is returned progressively to atmospheric pressure while a blow-off exit flow rate lower than 1.5 Nl/h is maintained (whence a ratio of the blow-off volumetric flow rates to the oxygen introduced lower than 15). 71 g of water and 205 g of dimethylaminoethyl acrylate have been employed in this operation and 343 g of acryloyloxyethyltrimethylammonium at a concentration of. 80% in water are recovered. The final product is then subjected to an injection of air at a flow rate of 7 Nl/h for 1/2 hour hot and then for 1/2 hour at room temperature. The final product obtained has the following characteristics: water: 20.3% acrylic acid: 0.23% dimethylaminoethyl acrylate: 0.15% methyl chloride: 10 ppm polymer: nil storage stability: longer than 1 year.

reactant | methyl chloride | CCl | CH3Cl
reactant | dimethylaminoethyl acrylate | 33 g | C(C=C)(=O)OCCN(C)C | C7H13NO2
reactant | hydroquinone methyl ether | COC1=CC=C(O)C=C1 | C7H8O2
reactant | acrylate | C(C=C)(=O)[O-]
reactant | water acrylate | O.C(C=C)(=O)[O-]
reactant | oxygen | O=O | O2
reactant | dimethylaminoethyl acrylate | 205 g | C(C=C)(=O)OCCN(C)C | C7H13NO2
reactant | acryloyloxyethyltrimethylammonium | 343 g | C(C=C)(=O)OCC[N+](C)(C)C
solvent | water | 71 g | O | H2O
product | Acryloyloxyethyltrimethylammonium Chloride | [Cl-].C(C=C)(=O)OCC[N+](C)(C)C | InChI=1S/C8H16NO2.ClH/c1-5-8(10)11-7-6-9(2,3)4;/h5H,1,6-7H2,2-4H3;1H/q+1;/p-1
